US07288538B2
3-Benzenesulfonylaminothiophene-2-carboxylic acid methyl ester (1.5 g, 5.0 mmol) was dissolved in acetonitrile (10 mL) and treated with aqueous, sodium hydroxide solution (2N, 7.5 mL, 3 equivalents) at room temperature. The solution was warmed to 50° C. and monitored by thin layer chromatography. Upon completion of the reaction, the mixture was cooled and extracted once with diethyl ether. The ether layer was set aside. The aqueous layer was then acidified with aqueous HCl (2N, excess) before re-extracting twice with ethyl acetate. The combined organic layers were washed once with brine solution and dried over anhydrous sodium sulfate. The ethyl acetate was decanted and evaporated under reduced pressure to give of 3-benzenesulfonylaminothiophene-2-carboxylic acid (1.34 g, 95%) as a white powder.

reactant | 3-Benzenesulfonylaminothiophene-2-carboxylic acid methyl ester | 5.0 mmol, 1.5 g | COC(=O)C=1SC=CC1NS(=O)(=O)C1=CC=CC=C1 | C12H11NO4S2
reactant | sodium hydroxide | 2N, 7.5 mL, 3 equivalents | [OH-].[Na+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 3-benzenesulfonylaminothiophene-2-carboxylic acid | 1.34 g, 95% | C1(=CC=CC=C1)S(=O)(=O)NC1=C(SC=C1)C(=O)O | C11H9NO4S2
